Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
loss of fluid
 
Major Surgical or Invasive Procedure:
s/p postpartum hysterectomy, s/p massive blood transfusion

 
History of Present Illness:
___ yo G2P1 @ 41w3d with prior LTCS presents after clear LOF at 
0200. She denies
VB. She has irregular contractions. +FM.  Desires trial of 
labor.

 
Past Medical History:
POBHx: G2P1
- G1 LTCS ___ at 36w4d 5#3oz for breech, oligo, IUGR c/b
intra-op hemorrhage from uterine atony requiring B-Lynch stitch. 
pod#2 hct 34, no transfusions. Possible arcuate uterus per 
operative note.
- G2 current
PGynHx: Denies STDs or abnl paps
PMH: none
PSH: LTCS

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
PE: 97.7 105/68 87 18
Gen: NAD
Abd: soft, gravid, NT, 7.5# EFW by ___
SVE: 1-2/80/-2 ___ at 11:20 am
FHT: 140, mod var, +accels, no decels
Toco: q8 min

 
Pertinent Results:
___ 08:50AM   WBC-9.5 RBC-4.63 HGB-13.3 HCT-40.1 MCV-87# 
MCH-28.7 MCHC-33.2 RDW-13.1 RDWSD-40.8
___ 08:50AM   PLT COUNT-117*
 
Brief Hospital Course:
Ms. ___ is a ___ G2P2 who presented with clear SROM, early 
labor, GBS positive, and desire for trial of labor.  She 
underwent pitocin and had successful VBAC that was complicated 
by postpartum hemorrhage and DIC requiring hysterectomy. A 
hysterectomy was required due to persistent hemorrhage despite 
uterotonics, D&C, bakri balloon, B-lynch, and box stitch. 
Massive transfusion protocol was required.  She had also 
developed hives intraoperatively, which was thought to either be 
due to a reaction to products received or possible AFE.  EBL was 
4000mL.  Intraoperatively, total products received were 8 units 
pRBCs (of which 1 unit was interrupted due to possible 
transfusion reaction), ___ FFP, 3 platelets and 2 cryoprecipitate. 
Please see operative note for full details.  

She was admitted to the FICU postoperatively where she continued 
to be monitored:
- For the postpartum hemorrhage/DIC/hemorrhagic shock/blood loss 
anemia, she received short course of pressors and additional 2 
units of pRBCs.  Fibrinogen nadired to 82 and normalized later 
pod#0.  After transfusion, hct remained stable at ___ without 
any evidence of ongoing bleeding. In total over hospitalization, 
pt received 9 to 10 units of PRBCs, 3 Platelets, 2 
Cryoprecipitate, ___ FFP.
- Presumed sepsis was managed with IV vancomycin and zosyn until 
over 24hours afebrile. No source was identified while in the 
hospital. Urine and blood cultures were all negative and WBC 
normalized.

Patient was extubated on pod#1 and transferred to the normal 
postpartum floor on pod#2. By pod#2 patient was ambulating, 
voiding spontaneously and had bowel movement.  She tolerated 
POs, was encouraged to breastfeed and breastpump, and had 
satisfactory pain control.  

She was discharged on pod#6 in stable condition. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Prenatal Vitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H:PRN fever 
2. Prenatal Vitamins 1 TAB PO DAILY 
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice daily 
Disp #*60 Capsule Refills:*2
4. Ibuprofen 600 mg PO Q6H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*2
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 4 hours Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
s/p vaginal birth after cesarean ___ 
liveborn baby boy ___ 
s/p postpartum hemorrhage/DIC/hemorrhagic shock, s/p 
hysterectomy, s/p massive blood transfusion 
blood loss anemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
see nursing sheet
no heavy lifting for 6 weeks

 
Followup Instructions:
___